US06992085B2
Step A: Triisopropyl-(3,4,5-trimethoxyphenylsulphanyl)-silane
1.12 g of sodium hydride are added to a solution of 5 g of triisopropylsilanethiol in 100 ml of tetrahydrofuran. When the evolution of hydrogen has ceased, 2.4 g of Pd(PPh3)4, 100 ml of toluene and 6.9 g of 1-bromo-3,4,5-trimethoxybenzene are added, and the reaction mixture is refluxed for 2 hours, and then evaporated in vacuo. Chromatography over silica gel eluted with a mixture of CH2Cl2/heptane (70/30) enables the expected product to be isolated.

reactant | sodium hydride | 1.12 g | [H-].[Na+]
reactant | triisopropylsilanethiol | 5 g | C(C)(C)[Si](S)(C(C)C)C(C)C | C9H22SSi
reactant | hydrogen | [H][H] | H2
reactant | 1-bromo-3,4,5-trimethoxybenzene | 6.9 g | BrC1=CC(=C(C(=C1)OC)OC)OC | C9H11BrO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | Pd(PPh3)4 | 2.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Triisopropyl-(3,4,5-trimethoxyphenylsulphanyl)-silane | C(C)(C)[Si](SC1=CC(=C(C(=C1)OC)OC)OC)(C(C)C)C(C)C | C18H32O3SSi
